US09340538B2
Step B: Ethyl 4-(2-bromo-4-fluorophenyl)-6-((2-(3-methoxy-3-oxopropyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1 g, 2 mmol) was reacted with methyl 3-(morpholin-2-yl)propanoate (0.38 g, 2.2 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a yellow solid (0.53 g, 45%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | methyl 3-(morpholin-2-yl)propanoate | 2.2 mmol, 0.38 g | N1CC(OCC1)CCC(=O)OC | C8H15NO3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-((2-(3-methoxy-3-oxopropyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.53 g, 45% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1CC(OCC1)CCC(=O)OC)C=1SC=CN1 | C25H28BrFN4O5S
